US08563550B2
(4-Fluoro-phenyl)-imidazo[2,1-b][1,3,4]thiadiazol-2-yl-amine (0.117 g, 0.50 mmol) was suspended in N,N-dimethylformamide (3 mL) and N-iodosuccinimide (0.124 g, 0.55 mmol) was added in one portion. The reaction mixture was stirred at room temperature for 2 hours in the absence of light. The mixture was evaporated and the residue was purified by column chromatography (Biotage™/Flash, silica, methanol:dichloromethane 0.4:9.6 to 1:9) to give 0.13 g of (4-fluoro-phenyl)-(5-iodo-imidazo[2,1-b][1,3,4]thiadiazol-2-yl)-amine as an off-white solid (72% yield).

reactant | (4-Fluoro-phenyl)-imidazo[2,1-b][1,3,4]thiadiazol-2-yl-amine | 0.50 mmol, 0.117 g | FC1=CC=C(C=C1)NC1=NN2C(S1)=NC=C2 | C10H7FN4S
reactant | N-iodosuccinimide | 0.55 mmol, 0.124 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | (4-fluoro-phenyl)-(5-iodo-imidazo[2,1-b][1,3,4]thiadiazol-2-yl)-amine | 0.13 g, 72% yield | FC1=CC=C(C=C1)NC1=NN2C(S1)=NC=C2I | C10H6FIN4S
